US07741346B2
N,N-Dimethylformamide (143 ml) was added to sodium hydride (5.36 g, 134 mmol) under a nitrogen atmosphere, and the mixture was stirred under ice-cooling. A solution of diethyl methylmalonate (11.7 g, 67.1 mmol) in N,N-dimethylformamide (40 ml) was added dropwise to the mixture over five minutes, after 10 minutes, 4-chloropicolyl hydrochloride (10.0 g, 61.0 mmol) was added thereto little by little over five minutes, and the temperature was raised to room temperature. After one hour, a saturated aqueous sodium hydrogencarbonate solution (500 ml) was added to the reaction mixture, and the whole was extracted with diethyl ether (400 ml). The organic layer was washed with water (100 ml) and saturated brine (50 ml) successively, dried over magnesium sulfate and concentrated under reduced pressure to give diethyl 2-methyl-2-(4-pyridylmethyl)malonate (17.2 g, quantitatively, containing sodium hydride oil) as a brown oily matter.

reactant | sodium hydride | 134 mmol, 5.36 g | [H-].[Na+]
reactant | diethyl methylmalonate | 67.1 mmol, 11.7 g | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | 4-chloropicolyl hydrochloride | 61.0 mmol, 10.0 g | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
reactant | sodium hydrogencarbonate | 500 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | N,N-Dimethylformamide | 143 ml | CN(C=O)C | C3H7NO
product | diethyl 2-methyl-2-(4-pyridylmethyl)malonate | CC(C(=O)OCC)(C(=O)OCC)CC1=CC=NC=C1 | C14H19NO4
